US04406828
Reaction of methyl benzyl ketone with β-methallyl chloride in accordance with the foregoing process yields 2-methyl-4-phenyl-hex-1-en-5-one of boiling point 85° C./3 mmHg; nD20 =1.5151.

reactant | methyl benzyl ketone | C(C1=CC=CC=C1)C(=O)C | C9H10O
reactant | β-methallyl chloride | CC(=C)CCl | C4H7Cl
product | 2-methyl-4-phenyl-hex-1-en-5-one | CC(=C)CC(C(C)=O)C1=CC=CC=C1 | C13H16O
